US09422331B2
A mixture of (2S,3S)-2-(tert-butoxycarbonyl amino)-3-(5-cyano-2-nitrophenylamino)butanoic acid (5.35 g, 14.7 mmol) and PdC (10% dry basis, wet, 50% water) (535 mg, 251 μmol) in MeOH (60 ml) and EtOAc (60 ml) was shaken under H2 (50 PSI) for 4 h, then filtered through a bed of celite and concentrated to afford (2S,3S)-3-(2-amino-5-cyanophenylamino)-2-(tert-butoxycarbonylamino)butanoic acid (4.9 g, quant.) as a dark brown solid.

reactant | (2S,3S)-2-(tert-butoxycarbonyl amino)-3-(5-cyano-2-nitrophenylamino)butanoic acid | 14.7 mmol, 5.35 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)[C@H](C)NC1=C(C=CC(=C1)C#N)[N+](=O)[O-] | C16H20N4O6
solvent | MeOH | 60 ml | CO | CH4O
solvent | EtOAc | 60 ml | CCOC(=O)C | C4H8O2
product | (2S,3S)-3-(2-amino-5-cyanophenylamino)-2-(tert-butoxycarbonylamino)butanoic acid | 4.9 g | NC1=C(C=C(C=C1)C#N)N[C@H]([C@@H](C(=O)O)NC(=O)OC(C)(C)C)C | C16H22N4O4
